US06492370B1
(2S)-2-[3-[(2RS)-2-(Hydroxycarbamoyl)-3-(phenylthio)propyl]-3-isoamylureido]-N-methyl-3-phenylpropionamide (Compound No. 40-1)
In anhydrous methylene chloride (4 ml) are dissolved (2S)-2-[3-[(2RS)-2-carboxy-3-(phenylthio)propyl]-3-isoamylureido]-N-methyl-3-phenylpropionamide (Compound No. 36-2, 100 mg), 1-hydroxybenzotriazole (68 mg) and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (96 mg) under a nitrogen atmosphere. Then, N-methylmorpholine (0.05 ml) is added to the solution under ice cooling, and the mixture is stirred for 30 minutes. Next, to the mixture is added a solution containing hydroxylammonium chloride (52 mg) and N-methylmorpholine (0.08 ml) in dimethylformamide (1 ml), and the mixture is stirred under ice cooling for 10 minutes and then at room temperature overnight. A 5% aqueous citric acid solution is added to the reaction mixture, and the whole is extracted with ethyl acetate. The organic layer is washed with a 5% aqueous sodium hydrogencarbonate solution and saturated brine successively, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give 57 mg (54%) of the titled compound (Compound No. 40-1) as noncrystalline powder.

reactant | (2S)-2-[3-[(2RS)-2-carboxy-3-(phenylthio)propyl]-3-isoamylureido]-N-methyl-3-phenylpropionamide | 100 mg | C(=O)(O)C(CN(C(N[C@H](C(=O)NC)CC1=CC=CC=C1)=O)CCC(C)C)CSC1=CC=CC=C1 | C26H35N3O4S
reactant | 1-hydroxybenzotriazole | 68 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 96 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 0.05 ml | CN1CCOCC1 | C5H11NO
reactant | hydroxylammonium chloride | 52 mg | [Cl-].O[NH3+]
reactant | N-methylmorpholine | 0.08 ml | CN1CCOCC1 | C5H11NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2S)-2-[3-[(2RS)-2-(Hydroxycarbamoyl)-3-(phenylthio)propyl]-3-isoamylureido]-N-methyl-3-phenylpropionamide | 57 mg, 54% | ONC(=O)C(CN(C(N[C@H](C(=O)NC)CC1=CC=CC=C1)=O)CCC(C)C)CSC1=CC=CC=C1 | C26H36N4O4S
